US08487093B2
Step 4: Allyl (4R)-4-[(benzyloxy)amino]-1-(trifluoroacetyl)-L-prolinate
A solution of allyl (4S)-4-hydroxy-1-(trifluoroacetyl)-L-prolinate (844 mg, 3.16 mmol) in acetonitrile (16 mL) was cooled to −10° C. and 2,6-lutidine (0.62 mL, 5.32 mmol) was added followed by trifluoromethanesulfonic anhydride (0.85 mL, 5.15 mmol). After addition, the temperature was allowed to warm to 0° C. The reaction mixture was stirred at 0° C. for 1 hour then O-benzylhydroxylamine (1 mL, 8.67 mmol) was added followed by 2,6-lutidine (0.62 mL, 5.32 mmol). The reaction mixture was allowed to warm to room temperature overnight. The reaction mixture was then diluted with ethyl acetate and washed with 5% sodium bicarbonate solution and brine, dried over magnesium sulfate, filtered and concentrated under vacuum. The tan oil residue (2.57 g) was chromatographed on silica gel eluted initially with 95:5 dichloromethane:ethyl acetate and finally with 80:20 dichloromethane:ethyl acetate to afford the title compound as a pale yellow solid.

reactant | allyl (4S)-4-hydroxy-1-(trifluoroacetyl)-L-prolinate | 3.16 mmol, 844 mg | O[C@H]1C[C@H](N(C1)C(C(F)(F)F)=O)C(=O)OCC=C | C10H12F3NO4
reactant | 2,6-lutidine | 5.32 mmol, 0.62 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 5.15 mmol, 0.85 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | O-benzylhydroxylamine | 8.67 mmol, 1 mL | C(C1=CC=CC=C1)ON | C7H9NO
reactant | 2,6-lutidine | 5.32 mmol, 0.62 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Allyl (4R)-4-[(benzyloxy)amino]-1-(trifluoroacetyl)-L-prolinate | C(C1=CC=CC=C1)ON[C@@H]1C[C@H](N(C1)C(C(F)(F)F)=O)C(=O)OCC=C | C17H19F3N2O4
